US04738892
(cis- and trans-)4R-Limonene Oxide
A mechanically stirred mixture of 1 kg. (7.3 mol.) of d-limonene (7.3 mol.) and sodium carbonate (310.6 g) was cooled to 0°-10° C., and treated with 1.61 kg. (9.1 mol.) 40% peracetic acid by dropwise addition. After the addition was complete, the reaction mixture was stirred for another 45 min., washed with ice water, sodium carbonate, and brine. The oil was dried over magnesium sulfate, and distilled to give recovered limonene (30 g), the cis-epoxide (257 g) and trans-epoxide (296 g), and diepoxide (82 g).

reactant | d-limonene | 7.3 mol | CC1=CC[C@@H](CC1)C(=C)C | C10H16
reactant | sodium carbonate | 310.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | peracetic acid | 9.1 mol | C(C)(=O)OO | C2H4O3
product | Limonene Oxide | CC(=C)C1CCC2(C(C1)O2)C | C10H16O
